US05990101
A 330 mg potion of sodium boron hydride was added to 25 ml of a methanol solution containing 4.12 g of 2-(N-t-butoxycarbonylamino)methyl-5-formylthiazole under ice-cooling, and the mixture was then stirred at room temperature for 1 hour. Under reduced pressure, the solvent was distilled off, and water was added to the resulting residue, followed by extraction with ethyl acetate (80 ml×3). The organic layer was dried over anhydrous sodium sulfate and then filtered, and the solvent was evaporated under reduced pressure to obtain 2.17 g of 2-(N-t-butoxycarbonylamino)methyl-5-hydroxymethylthiazole.

reactant | sodium boron hydride | B.[Na]
reactant | 2-(N-t-butoxycarbonylamino)methyl-5-formylthiazole | 4.12 g | C(C)(C)(C)OC(=O)NCC=1SC(=CN1)C=O | C10H14N2O3S
solvent | methanol | 25 ml | CO | CH4O
product | 2-(N-t-butoxycarbonylamino)methyl-5-hydroxymethylthiazole | 2.17 g | C(C)(C)(C)OC(=O)NCC=1SC(=CN1)CO | C10H16N2O3S
